US05922880
To a mixture of 0.40 g of 2,6-dichloro-4-(3,3-dichloro-2-propenyloxy)-phenol, 0.21 g of potassium carbonate and 20 ml of N,N-dimethylformamide was added dropwise a solution of 0.25 g of 6-chloro-3-(chloromethyl)pyridine dissolved in 5 ml of N,N-dimethylformamide, while stirring at room temperature. After stirring at room temperature for 7 hours, the reaction mixture was poured into ice-water, and extracted twice with 50 ml of diethyl ether. The combined ether layer was washed with water, dried with anhydrous magnesium sulfate, and concentrated to obtain a crude product. The crude product was subjected to silica gel chromatography, which afforded 0.44 g of 3,5-dichloro-4-(6-chloro-3-pyridylmethyloxy)-1-(3,3-dichloro-2-propenyloxy)benzene (77% yield), m.p. 93.3° C.

reactant | 2,6-dichloro-4-(3,3-dichloro-2-propenyloxy)-phenol | 0.40 g | ClC1=C(C(=CC(=C1)OCC=C(Cl)Cl)Cl)O | C9H6Cl4O2
reactant | potassium carbonate | 0.21 g | C([O-])([O-])=O.[K+].[K+]
reactant | 6-chloro-3-(chloromethyl)pyridine | 0.25 g | ClC1=CC=C(C=N1)CCl | C6H5Cl2N
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 3,5-dichloro-4-(6-chloro-3-pyridylmethyloxy)-1-(3,3-dichloro-2-propenyloxy)benzene | 0.44 g, 77% yield | ClC=1C=C(C=C(C1OCC=1C=NC(=CC1)Cl)Cl)OCC=C(Cl)Cl | C15H10Cl5NO2
